Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.49950944741
[H:18].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.565599000030001
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1],3.71687671809
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-8.0363373544
[C:5]([H:6])([H:7])[H:8].[O:1][C:2]#[C:3][O:4]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[H:8],-4.70553921366
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],1.88977549557
[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],3.69856862632
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-1.7430898972
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],2.7529196396
[C:8][H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-8.66333743269
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[O:5],0.894406490002
[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7]>>[O:1][C:2]([H:3])([H:4])[C:5]1[C:6][O:7]1,2.33218278492
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.08788152279
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8][H:9].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:10]([H:11])([H:12])[H:13],2.61516845741
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.76192894952
[C:3](#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.85216745858
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4],6.179874498689999
[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.71681061651
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:4],1.52544300869
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:6],1.7908435176
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:11][H:12].[C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-7.02698201349
[C:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9][H:10]>>[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])=[C:9][H:10],-0.146337934581
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1][C:2],8.79323685929
[H:1][C:2]=[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:10][H:11],2.67937377416
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:7],4.658258496959999
[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.65922781887
[H:5].[O:1]=[C:2][C:3]([H:4])=[C:6]=[O:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7],-1.5762187523
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.66101496371
